US07297709B2
2-fluoro-3-formyl-6-iodobenzonitrile
LDA (24.3 mL, 2.0 M solution in THF) was added dropwise to a stirred solution of 2-fluoro-6-iodobenzonitrile (10.0 g, 40.5 mmol) in THF (200 mL) at −78° C., and the mixture was stirred for 1 h. Methyl formate (5.0 mL, 81.0 mmol) was added via syringe and the resulting mixture was stirred at −78° C. for 30 min then at rt for 1 h. H2O was added and the mixture was extracted with EtOAc. The extracts were washed with brine, dried (MgSO4) and concentrated. The residue was purified by flash chromatography on silica gel eluting with 20-25% EtOAc/hexanes to give the desired product (8.01 g). MS (ESI(+)) m/e 274.9 (M+H)+.

reactant | LDA | 2.0 M, 24.3 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2-fluoro-6-iodobenzonitrile | 40.5 mmol, 10.0 g | FC1=C(C#N)C(=CC=C1)I | C7H3FIN
reactant | Methyl formate | 81.0 mmol, 5.0 mL | C(=O)OC | C2H4O2
reactant | H2O | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-fluoro-3-formyl-6-iodobenzonitrile | 8.01 g | FC1=C(C#N)C(=CC=C1C=O)I | C8H3FINO
